US05519133
Preparation of 1-{2-Bromo-5-[3-chloro-5-(trifluoromethyl)-2-pyridyloxy]phenyl}-3-methyl-s-triazine-2,4,6 (1H, 3H, 5H)-trione
A mixture of 1-(2-bromo-5-hydroxyphenyl)-3-methyl-s-triazine-2,4,6-(1H, 3H, 5H)-trione (5.29 g, 0.0168 mol), 2,3-dichloro-5-trifluoromethylpyridine (5.44 g, 0.025 mol) and potassium carbonate (3.45 g, 0.025 mol) in N,N-dimethylformamide is stirred at 80° C. for 18 hours, cooled to room temperature and poured into water. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a solid. The solid is recrystallized from an ether/hexanes solution to give the title product as a yellow solid, mp 97°-110° C.

reactant | 1-(2-bromo-5-hydroxyphenyl)-3-methyl-s-triazine-2,4,6-(1H, 3H, 5H)-trione | 0.0168 mol, 5.29 g | BrC1=C(C=C(C=C1)O)N1C(N(C(NC1=O)=O)C)=O | C10H8BrN3O4
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.025 mol, 5.44 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | potassium carbonate | 0.025 mol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-{2-Bromo-5-[3-chloro-5-(trifluoromethyl)-2-pyridyloxy]phenyl}-3-methyl-s-triazine-2,4,6 (1H, 3H, 5H)-trione | BrC1=C(C=C(C=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)N1C(N(C(NC1=O)=O)C)=O | C16H9BrClF3N4O4
